US07723367B2
[2,4′]Bipyridinyl-3-carbonitrile
Prepared in 39% yield from 2-chloro-3-cyanopyridine and 4-(tributylstannyl)pyridine according to the procedure described for Example 164A. MS (ESI+) m/z 181.9 (M+H)+; 1H NMR (CDCl3) δ 7.50 (dd, J=8.1, 4.7 Hz, 1H), 7.88 (d, J=6.4 Hz, 2H), 8.14 (dd, J=8.0, 1.9 Hz, 1H), 8.83 (d, J=4.4 Hz, 2H), 8.94 (dd, J=4.9, 1.9 Hz, 1H).

reactant | 2-chloro-3-cyanopyridine | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | 4-(tributylstannyl)pyridine | C(CCC)[Sn](C1=CC=NC=C1)(CCCC)CCCC
product | [2,4′]Bipyridinyl-3-carbonitrile | 39% yield | N1=C(C(=CC=C1)C#N)C1=CC=NC=C1 | C11H7N3
